US08580957B2
A mixture of 4-(dihydroxyboranyl)benzoic acid (25.7 mg, 0.155 mmol), (cis)-1-acetyl-6-bromo-N-phenyl-2-propyl-1,2,3,4-tetrahydro-4-quinolinamine (for a preparation see intermediate 86) (40 mg, 0.103 mmol), tetrakis(triphenylphosphine)palladium(0) (11.93 mg, 10.33 μmol) and potassium carbonate (42.8 mg, 0.310 mmol) in 1,4-dioxane (1 mL) and water (0.5 mL) was stirred at 130° C. for 15 min under microwave irradiation then cooled to room temperature and concentrated in vacuo. Purification of the residue by MDAP (modifier:formic acid) gave 4-[(cis)-1-acetyl-4-(phenylamino)-2-propyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoic acid (19 mg, 0.044 mmol, 43%).

reactant | 4-(dihydroxyboranyl)benzoic acid | 0.155 mmol, 25.7 mg | OB(C1=CC=C(C(=O)O)C=C1)O | C7H7BO4
reactant | (cis)-1-acetyl-6-bromo-N-phenyl-2-propyl-1,2,3,4-tetrahydro-4-quinolinamine | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)NC1=CC=CC=C1)CCC | C20H23BrN2O
reactant | potassium carbonate | 0.310 mmol, 42.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 10.33 μmol, 11.93 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[(cis)-1-acetyl-4-(phenylamino)-2-propyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoic acid | 0.044 mmol, 19 mg, 43% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)O)C=C1)NC1=CC=CC=C1)CCC | C27H28N2O3
